US07064229B2
N-[4-(Aminomethyl)phenyl]-N′-(2-methylphenyl)urea
To a solution of tert-butyl 4-({[(2-methylphenyl)amino]carbonyl}amino)benzylcarbamate (2.00 g, 5.63 mmol) in CH2Cl2 (120 mL) TFA (36 mL) was added at 0° C. and stirred for 2 h at r.t. The reaction mixture was evaporated and the product was collected (2.72 g, TFA salt). M.p. 142–143° C.; TLC (PE/EtOAc 3/2) Rf 0.14; 1H NMR (400 MHz, D6-DMSO) δ 2.24 (s, 3H); 3.97 (q, J=5 Hz, 2H); 6.96 (mc, 1H); 7.13–7.19 (m, 2); 7.36 (mc, 2H); 7.51 (mc, 2H); 7.81 (mc, 2H); 8.06 (s, 1H); 8.08 (s, 3H); 9.23 (s, 1H).

reactant | tert-butyl 4-({[(2-methylphenyl)amino]carbonyl}amino)benzylcarbamate | 5.63 mmol, 2.00 g | CC1=C(C=CC=C1)NC(=O)NC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C20H25N3O3
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(Aminomethyl)phenyl]-N′-(2-methylphenyl)urea | NCC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C | C15H17N3O
